US04846873
(1-Methylpropoxy)acetic acid
To a 3-neck 1-liter round-bottom flask equipped with a mechanical stirrer, reflux condenser and addition funnel was added 500 ml of 2-butanol under nitrogen. Sodium spheres (3.31 g, 0.144 moles) were then added and the mixture heated at reflux for 6 hours and then stirred at room temperature overnight. A solution of bromoacetic acid (10.00 g, 0.072 moles) in 10 ml of 2-butanol was then added dropwise and the mixture stirred at room temperature for 24 hours. The mixture was then concentrated in vacuo to remove the 2-butanol and the resulting white solid dissolved in 100 ml of water. This aqueous solution was washed with ether (2×50 ml) and then acidified to pH 1 with concentrated hydrochloric acid. The resulting mixture was extracted with ether (3×100 ml) and the combined extracts washed with saturated sodium chloride solution (1×50 ml), dried over magnesium sulfate and concentrated in vacuo to give 8.1 g of the product as a pale yellow oil.

reactant | Sodium | [Na] | Na
reactant | bromoacetic acid | 0.072 moles, 10.00 g | BrCC(=O)O | C2H3BrO2
reactant | 2-butanol | 10 ml | CC(CC)O | C4H10O
reactant | 2-butanol | 500 ml | CC(CC)O | C4H10O
product | (1-Methylpropoxy)acetic acid | 8.1 g | CC(CC)OCC(=O)O | C6H12O3
